US07399767B2
3-(2,4-Dimethoxy-pyrimidin-5-yl)-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one
The title product was prepared as a white solid according to the procedure described in Example 9 using 1-[2-hydroxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-ethanone and (2,4-dimethoxy-pyrimidin-5-yl)-acetic acid as the starting material.

reactant | 1-[2-hydroxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-ethanone | OC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C(C)=O | C14H22O4Si
reactant | (2,4-dimethoxy-pyrimidin-5-yl)-acetic acid | COC1=NC=C(C(=N1)OC)CC(=O)O | C8H10N2O4
product | 3-(2,4-Dimethoxy-pyrimidin-5-yl)-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | COC1=NC=C(C(=N1)OC)C=1C(OC2=CC(=CC=C2C1C)OCOCC[Si](C)(C)C)=O | C22H28N2O6Si
